US07514566B2
To a 100 mL of round bottom flask was added 5-bromo-4-fluoro-2-nitrophenol (0.98 g, 4.15 mmol), tin(II) chloride dihydrate (4.73 g, 20.76 mmol) and 5 mL of EtOH. The reaction mixture was heated to 70° C. for 30 minutes. The reaction mixture was concentrated and washed with saturated NaHCO3 solution, and extracted with DCM (100 mL×3), and concentrated providing the crude product. 1,1′-Carbonyldiimidazole (808 mg, 4983 μmol) was added to the crude product in 20 mL of THF. The reaction mixture was heated at reflux overnight. The reaction mixture was concentrated and purified with silica gel column chromatography, eluting with 0-30% EtOAc/hexane to give 6-bromo-5-fluorobenzo[d]oxazol-2(3H)-one (690 mg, 71.6% yield). MS m/z: 232 (M+1).

reactant | 5-bromo-4-fluoro-2-nitrophenol | 4.15 mmol, 0.98 g | BrC=1C(=CC(=C(C1)O)[N+](=O)[O-])F | C6H3BrFNO3
reactant | tin(II) chloride dihydrate | 20.76 mmol, 4.73 g | O.O.[Sn](Cl)Cl
reactant | EtOH | 5 mL | CCO | C2H6O
reactant | 1,1′-Carbonyldiimidazole | 4983 μmol, 808 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-bromo-5-fluorobenzo[d]oxazol-2(3H)-one | 690 mg, 71.6% yield | BrC1=CC2=C(NC(O2)=O)C=C1F | C7H3BrFNO2
